US06410533B1
2-(3,5-Dichloro-phenyl)-5-phenyl-2,4-dihydro-pyrazol-3-one (Compound 1)
A solution of ethyl benzoylacetate (0.192 g, 1.00 mmol), 3,5-dichlorophenylhydrazine hydrochloride (0.235 g, 1.10 mmol), and p-toluenesulfonic acid monohydrate (0.019 g, 0.10 mmol) in ethanol (10 mL) was heated at reflux for 24 hours. The reaction solution was concentrated and the resulting residue was partitioned between ethyl acetate and aqueous 1N hydrochloric acid solution. The organic layer was further washed with water and brine, dried (sodium sulfate) and concentrated to afford a yellow solid. The crude product was triturated with hexanes and collected by suction filtration. Air drying afforded 0.174 g (57%) of product as a bright yellow solid: 1H NMR (DMSO-d6) δ12.60-12.40 (br s, 1H), 7.92 (s, 2H), 7.87-7.83 (d, 2H), 7.50 (s, 1H), 7.44-7.38 (m, 2H), 7.36-7.31 (m, 1H), 6.02 (s, 1H) ppm.

reactant | ethyl benzoylacetate | 1.00 mmol, 0.192 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | 3,5-dichlorophenylhydrazine hydrochloride | 1.10 mmol, 0.235 g | Cl.ClC=1C=C(C=C(C1)Cl)NN
reactant | p-toluenesulfonic acid monohydrate | 0.10 mmol, 0.019 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(3,5-Dichloro-phenyl)-5-phenyl-2,4-dihydro-pyrazol-3-one | 0.174 g, 57% | ClC=1C=C(C=C(C1)Cl)N1N=C(CC1=O)C1=CC=CC=C1 | C15H10Cl2N2O
